US05089504
3-butyryl-6-benzoyloxymethyl)-4(1H)-quinolone (30 g) was heated under reflux in phosphorus oxychloride (200 ml) for 30 minutes. The solvent was evaporated and the residue partitioned between dichloromethane and ammonia solution. The organic layer was washed successively with sodium hydrogen carbonate solution and 50% brine. Dried anhyd. MgSO4), filtered and evaporated to an oily solid which crystallized on trituration with petroleum ether to give 3-butyryl-4-chloro-6-benzyloxymethyl)quinoline (21.2 g, 67%), m.p. 85° C.-6° C.

reactant | 4(1H)-quinolone | 30 g | N1C=CC(C2=CC=CC=C12)=O | C9H7NO
solvent | phosphorus oxychloride | 200 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | quinoline | 21.2 g, 67% | N1=CC=CC2=CC=CC=C12 | C9H7N
